US07319104B2
2-Methyl-2-[4-(2-{(5-nitropyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]propanoic acid
Ethyl 2-methyl-2-[4-(2-{(5-nitropyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]propanoate (80 mg) was hydrolyzed with NaOH as per general procedure H. Purification by radial chromatography (1–5% methanol-dichloromethane gradient) followed by crystallization from dichloromethane-hexane afforded the title compound as a white solid (37 mg; 49% yield).

reactant | Ethyl 2-methyl-2-[4-(2-{(5-nitropyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]propanoate | 80 mg | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)CCN(CC1=CC=C(C=C1)C(F)(F)F)C1=NC=C(C=C1)[N+](=O)[O-] | C27H28F3N3O5
reactant | NaOH | [OH-].[Na+]
product | 2-Methyl-2-[4-(2-{(5-nitropyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]propanoic acid | 37 mg, 49% yield | CC(C(=O)O)(C)OC1=CC=C(C=C1)CCN(CC1=CC=C(C=C1)C(F)(F)F)C1=NC=C(C=C1)[N+](=O)[O-] | C25H24F3N3O5
